US04988828
N-{3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl}-2-(furfurylsulfinyl)acetamide (20 g) was dissolved in 300 ml of acetone, and 60 ml of a 1N aqueous solution of HCl was added. The mixture was heated under reflux for 8 hours. After cooling, the solution was neutralized with a saturated aqueous solution of sodium hydrogen carbonate, concentrated and extracted with ethyl acetate. The organic layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 17 g (yield 81%) of N-[3-(3-formylphenoxy)propyl]-2-(furfurylsulfinyl)acetamide.

reactant | N-{3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl}-2-(furfurylsulfinyl)acetamide | 20 g | O1C(OCC1)C=1C=C(OCCCNC(CS(=O)CC2=CC=CO2)=O)C=CC1 | C19H23NO6S
reactant | HCl | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | N-[3-(3-formylphenoxy)propyl]-2-(furfurylsulfinyl)acetamide | 17 g, yield 81% | C(=O)C=1C=C(OCCCNC(CS(=O)CC2=CC=CO2)=O)C=CC1 | C17H19NO5S
